US08207134B2
6) Synthesis of (1-benzenesulfonyl-6-bromo-1H-indol-5-yl)methanol
Under a nitrogen stream, a mixture of 1-benzenesulfonyl-6-bromo-1H-indol-5-ylmethyl acetate (257 mg, 0.63 mmol), potassium carbonate (15 mg, 0.11 mmol) and methanol (4 mL) was stirred for 1 hour at room temperature. To the resultant mixture was added 2 N hydrochloric acid (0.11 mL), and solvent was then removed by distillation under reduced pressure. The resulting residue was purified by silica gel flash column chromatography (developing solution=ethyl acetate:n-hexane (2:1)), to thereby obtain the titled compound (225 mg, 97%).

reactant | 1-benzenesulfonyl-6-bromo-1H-indol-5-ylmethyl acetate | 0.63 mmol, 257 mg | C(C)(=O)OCC=1C=C2C=CN(C2=CC1Br)S(=O)(=O)C1=CC=CC=C1 | C17H14BrNO4S
reactant | potassium carbonate | 0.11 mmol, 15 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2 N, 0.11 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | (1-benzenesulfonyl-6-bromo-1H-indol-5-yl)methanol | 225 mg, 97% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)CO | C15H12BrNO3S
